US07977441B2
1-Ethynyl-2-(2-ethylhexyl)naphthalene was prepared in a similar manner to 1-ethynyl-2-hexylnaphthalene, except that bromohexane was replaced by 1-bromo-2-ethylhexane.

reactant | 1-ethynyl-2-hexylnaphthalene | C(#C)C1=C(C=CC2=CC=CC=C12)CCCCCC | C18H20
reactant | bromohexane | BrCCCCCC | C6H13Br
reactant | 1-bromo-2-ethylhexane | BrCC(CCCC)CC | C8H17Br
product | 1-Ethynyl-2-(2-ethylhexyl)naphthalene | C(#C)C1=C(C=CC2=CC=CC=C12)CC(CCCC)CC | C20H24
